US08058299B2
Preparation of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-methanesulfonylaminocarbonyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl)-amide
To a suspension of 5′-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid (39.4 mg, 0.085 mmol) in methylene chloride (5 mL) was added methanesulfonamide (8.2 mg, 0.086 mmol). Then 4-dimethylaminopyridine (10.45 mg, 0.085 mmol) and EDCl (16.4 mg, 0.085 mmol) was added. The mixture was stirred at room temperature overnight. Solvents were evaporated and the residue was purified by flash column chromatography using a linear gradient of ethyl acetate containing 1% acetic acidin hexanes (20% to 100% in 15 minutes) to give the desired compound as a pale yellow solid (16.5 mg). 1H-NMR is consistent with the desired structure. LRMS for C23H22F3N5O5S (m/e) calcd 537.13, obsd 538.1 (M+1).

reactant | 5′-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid | 0.085 mmol, 39.4 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC=1C=CC(=NC1)N1CCC(CC1)C(=O)O)C(F)(F)F | C22H19F3N4O4
reactant | methanesulfonamide | 0.086 mmol, 8.2 mg | CS(=O)(=O)N | CH5NO2S
reactant | EDCl | 0.085 mmol, 16.4 mg | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.085 mmol, 10.45 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-methanesulfonylaminocarbonyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl)-amide | 16.5 mg | CS(=O)(=O)NC(=O)C1CCN(CC1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C23H22F3N5O5S
